US07718657B2
2-(Chloromethyl)-4-nitrobenzo[d]oxazole.
To a RT solution of 2-amino-3-nitrophenol (14.7 g, 95 mmol, 1.0 equiv) in 2-methoxyethylether (136 mL) was added 2-chloro-1,1,1-triethoxyethane (19.1 g, 97.3 mmol, 1.02 equiv) and p-toluene sulfonic acid hydrate (25 mg, 0.13 mmol, 0.2 equiv). The resulting mixture was heated to reflux overnight. After the reaction was cooled to RT, the solvent was removed in vacuo. The solid was suspended in methanol (40 mL), stirred and filtered to provide the desired product as a red solid (3.61 g). The filtrate provided an additional 9.8 g of the title compound through an additional methanol treatment (13.4 g, 98% combined).

reactant | 2-amino-3-nitrophenol | 95 mmol, 14.7 g, 1.0 equiv | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | 2-chloro-1,1,1-triethoxyethane | 97.3 mmol, 19.1 g, 1.02 equiv | ClCC(OCC)(OCC)OCC | C8H17ClO3
solvent | 2-methoxyethylether | 136 mL | COCCOCCOC | C6H14O3
catalyst | p-toluene sulfonic acid hydrate | 0.13 mmol, 25 mg, 0.2 equiv | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(Chloromethyl)-4-nitrobenzo[d]oxazole | 3.61 g | ClCC=1OC2=C(N1)C(=CC=C2)[N+](=O)[O-] | C8H5ClN2O3
